US09359375B2
A mixture of (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetamide (78 mg, 0.236 mmol), 5-amino-3-methylisothiazole hydrochloride (47 mg, 0.312 mmol), BINAP (30 mg, 0.048 mmol), Pd(OAc)2 (20 mg, 0.089 mmol) and K2CO3 (134 mg, 0.971 mmol) in dioxane (3 mL) was degassed with Ar, then was stirred at 120 C for 18 h. Water and EtOAc were added. After being filtered, the organic phase was separated, washed with brine, dried over Na2SO4, concentrated in vacuo to give (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-2-phenylacetamide as a crude residue.

reactant | (R)-2-(3-bromo-4-cyanophenylamino)-2-phenylacetamide | 0.236 mmol, 78 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)C1=CC=CC=C1 | C15H12BrN3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.312 mmol, 47 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.048 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 0.971 mmol, 134 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.089 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-2-phenylacetamide | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)C1=CC=CC=C1)NC1=CC(=NS1)C | C19H17N5OS
